US06613719B1
1-Bromo-2-methyl-3-[5-(4-chlorobutyl)-4,5-dihydroisoxazol-3-yl]-4-methylsulfonylbenzene (Compound 4.1)
At room temperature, 50 ml of sodium hypochlorite solution (12.5% of active chlorine, admixed with a spatula tip of sodium acetate) were added dropwise with vigorous stirring to a solution of 15 g (51.4 mmol) of 3-bromo-2-methyl-6-methylsulfonylbenzaldehyde oxime and 6.7 g (56.5 mmol) of 6-chlorohexene in 200 ml of methylene chloride. The reaction mixture was stirred at room temperature overnight. The reaction mixture was then stirred into 300 ml of water. The organic phase was washed three times with water, dried and concentrated to dryness. This gave 19.3 g of a viscous yellow oil (92.4% of theory). The 1H-NMR spectrum corresponds to the given structure.

reactant | sodium hypochlorite | 50 ml | Cl[O-].[Na+]
reactant | chlorine | ClCl | Cl2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 3-bromo-2-methyl-6-methylsulfonylbenzaldehyde oxime | 51.4 mmol, 15 g | BrC=1C(=C(C=NO)C(=CC1)S(=O)(=O)C)C | C9H10BrNO3S
reactant | 6-chlorohexene | 56.5 mmol, 6.7 g | ClCCCCC=C | C6H11Cl
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | water | 300 ml | O | H2O
product | 1-Bromo-2-methyl-3-[5-(4-chlorobutyl)-4,5-dihydroisoxazol-3-yl]-4-methylsulfonylbenzene | BrC1=C(C(=C(C=C1)S(=O)(=O)C)C1=NOC(C1)CCCCCl)C | C15H19BrClNO3S
